US08222413B2
Synthesis of 5-(4-Methyl-piperazin-1-yl)-2-nitroaniline
To a 4-dram vial was added 5-Chloro-2-nitroaniline (0.5 g, 2.90 mmol, 1 equiv.), NaOH (0.229 g, 5.71 mmol, 1.98 equiv.), 4′M NaCl (0.82 mL, aq.), and 1-methylpiperazine (0.643 g, 0.71 mL, 5.79 mmol, 2 equiv.). The mixture was heated on a hot plate to 105° C. for 22 h. De-ionized H2O (6 mL) was added to the mixture, which was cooled to room temperature, and the precipitate collected on a Buchner funnel. The precipitate was then washed with de-ionized H2O (5 mL) and heptane (5 mL). After drying in a vacuum oven (80° C., 30 in. Hg) overnight, the product (0.624 g, 91.1%) was collected. According to HPLC analysis, the sample had a purity of 99.6%.

reactant | 5-Chloro-2-nitroaniline | 2.90 mmol, 0.5 g, 1 equiv. | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | NaOH | 5.71 mmol, 0.229 g, 1.98 equiv. | [OH-].[Na+]
reactant | NaCl | 0.82 mL | [Na+].[Cl-]
reactant | 1-methylpiperazine | 5.79 mmol, 0.71 mL, 0.643 g, 2 equiv. | CN1CCNCC1 | C5H12N2
solvent | H2O | 6 mL | O | H2O
product | 5-(4-Methyl-piperazin-1-yl)-2-nitroaniline | CN1CCN(CC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H16N4O2
